US08754226B2
tert-Butyl 4-((3R,4S)-4-(benzyloxy)-3-hydroxy-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (525 mg, 1.34 mmol) was dissolved in THF (10 mL) and triethylamine (375 μL, 2.69 mmol) and methanesulfonyl chloride (126 μL, 1.61 mmol) were added to the reaction and stirred for 1 hour. The reaction was partitioned between saturated aqueous NaHCO3 and EtOAc, dried over Na2SO4, filtered and concentrated to afford tert-butyl 4-((3R,4S)-4-(benzyloxy)-3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (623 mg, 1.33 mmol, 98.9% yield) as a white solid.

reactant | tert-Butyl 4-((3R,4S)-4-(benzyloxy)-3-hydroxy-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 1.34 mmol, 525 mg | C(C1=CC=CC=C1)O[C@@H]1[C@H](C(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)O | C21H30N2O5
reactant | triethylamine | 2.69 mmol, 375 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.61 mmol, 126 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-((3R,4S)-4-(benzyloxy)-3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 1.33 mmol, 623 mg, 98.9% yield | C(C1=CC=CC=C1)O[C@@H]1[C@H](C(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)OS(=O)(=O)C | C22H32N2O7S
